US08013156B2
2,6-Dimethyl-piperazine (8.1 g, 71 mmol) was heated to 100° C. in DMF (8.0 ml). 3,4-Dichloro-1,2,5-thiadiazole (3.3 ml, 35 mmol) was added and the mixture stirred at 100° C. for 3-4 h. The reaction mixture was poured into H2O and extracted with EtOAc (4×). The combined EtOAc extractions were washed with sat'd NaHCO3 (1×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo to give 7.9 g (97%) of 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-3,5-dimethyl-piperazine which was used without further purification. 1H NMR (CDCl3) 3.90-3.86 (m, 2H), 3.05 (m, 2H), 2.52 (m, 2H), 1.12 (d, 6H) ppm. LC-MS (MH+)=233.

reactant | 2,6-Dimethyl-piperazine | 71 mmol, 8.1 g | CC1NC(CNC1)C | C6H14N2
reactant | 3,4-Dichloro-1,2,5-thiadiazole | 35 mmol, 3.3 ml | ClC1=NSN=C1Cl | C2Cl2N2S
reactant | H2O | O | H2O
solvent | DMF | 8.0 ml | CN(C)C=O | C3H7NO
product | 1-(4-chloro-[1,2,5]thiadiazol-3-yl)-3,5-dimethyl-piperazine | 7.9 g, 97% | ClC=1C(=NSN1)N1CC(NC(C1)C)C | C8H13ClN4S
